US04110447
38.95 g of 1-phthalimido-3-(4'-chloro-4-biphenylyl)-butane are boiled with 12.2 ml of 80% hydrazine hydrate in 400 ml of ethanol for 2 hours, while stirring, water is added, the mixture is cooled and the resulting 1-(3,4-dihydro-4-oxo-1-phthalazinyl-amino)-3-(4'-chloro-4-biphenylyl)-butane (m.p. 195°) is filtered off, dissolved in 450 ml of ethanol and 450 ml of 37% hydrochloric acid and boiled for 30 minutes, while stirring. The solution is concentrated and worked up using sodium hydroxide solution and ethyl acetate to give 3-(4'-chloro-4-biphenylyl)-butylamine. Hydrochloride, m.p. 256°-259°.

reactant | 1-phthalimido-3-(4'-chloro-4-biphenylyl)-butane | 38.95 g | C1(C=2C(C(N1CCC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)=CC=CC2)=O | C24H20ClNO2
reactant | hydrazine hydrate | 12.2 ml | O.NN
reactant | water | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-(4'-chloro-4-biphenylyl)-butylamine. Hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | InChI=1S/C16H18ClN.ClH/c1-12(10-11-18)13-2-4-14(5-3-13)15-6-8-16(17)9-7-15;/h2-9,12H,10-11,18H2,1H3;1H
